US06921763B2
1,1′-Thiocarbonyldi-2(1H)-pyridone (1.418 g, 6.104 mmol) was added to a solution of 4-bromoaniline (1.000 g, 5.813 mmol) in dichloromethane (50 mL). The purple solution was stirred at room temperature for 30 min and then washed with water (50 mL) and 0.5 N hydrochloric acid (50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated to afford a purple solid. 6-Amino-2,4-xylenol (0.837 g, 6.104 mmol) and toluene (50 mL) were added and the mixture was heated at 80° C. for 30 min. 1,3-Dicyclohexylcarbodiimide (1.799 g, 8.720 mmol) was added, and the solution was heated at 80° C. for 48 h and then cooled to room temperature. The resulting precipitate was filtered, and the filter cake was washed with dichloromethane (50 mL) to afford N2-(4-bromophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine as a pale orange solid (1.215 g, 66%). RP-HPLC Rt 17.643 min, 86% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 317 (MH+).

reactant | 1,1′-Thiocarbonyldi-2(1H)-pyridone | 6.104 mmol, 1.418 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 4-bromoaniline | 5.813 mmol, 1.000 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 6-Amino-2,4-xylenol | 6.104 mmol, 0.837 g | NC=1C=C(C=C(C1O)C)C | C8H11NO
reactant | 1,3-Dicyclohexylcarbodiimide | 8.720 mmol, 1.799 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N2-(4-bromophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | 1.215 g, 66% | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C | C15H13BrN2O
